US09193721B2
Step I: 8-Chloro-5-(3-fluorophenyl)-N-methoxy-N-methylimidazo[1,5-a]pyridine-6-carboxamide
8-Chloro-5-(3-fluorophenyl)imidazo[1,5-a]pyridine-6-carboxylic acid (0.29 g, 1.0 mmol) was stirred in N,N-dimethylformamide (2.8 mL). N,N-Diisopropylethylamine (0.87 mL, 5.0 mmol), N,O-dimethylhydroxylamine hydrochloride (0.29 g, 3.0 mmol) and a solution of 0.6 N 1-hydroxy-7-azabenzotriazole in N,N-dimethylformamide (0.33 mL, 0.2 mmol) were added. The mixture was stirred for 5 minutes and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (0.29 g, 1.5 mmol) was added. The mixture was stirred for 2 hours. The mixture was poured into saturated sodium bicarbonate and extracted into ethyl acetate 3×. The ethyl acetate extracts were combined and washed with water, dried over sodium sulfate, filtered, concentrated and purified by flash column chromatography with ethyl acetate in hexanes (0-80%) to give the desired compound (0.20 g, 60%). LCMS calculated for C16H14ClFN3O2 (M+H)+: m/z=334.1. found: 333.9. 1H NMR (300 MHz, DMSO-d6): δ 8.10 (s, 1H), 7.60 (m, 2H), 7.42 (m, 3H), 7.20 (s, 1H), 3.41 (br s, 3H), 3.00 (s, 3H).

reactant | 8-Chloro-5-(3-fluorophenyl)imidazo[1,5-a]pyridine-6-carboxylic acid | 1.0 mmol, 0.29 g | ClC=1C=2N(C(=C(C1)C(=O)O)C1=CC(=CC=C1)F)C=NC2 | C14H8ClFN2O2
reactant | N,N-Diisopropylethylamine | 5.0 mmol, 0.87 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,O-dimethylhydroxylamine hydrochloride | 3.0 mmol, 0.29 g | Cl.CNOC
reactant | 1-hydroxy-7-azabenzotriazole | 0.6 N | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 1.5 mmol, 0.29 g | Cl.CN(CCCN=C=NCC)C
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 2.8 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 0.2 mmol, 0.33 mL | CN(C=O)C | C3H7NO
product | 8-Chloro-5-(3-fluorophenyl)-N-methoxy-N-methylimidazo[1,5-a]pyridine-6-carboxamide | 0.20 g, 60% | ClC=1C=2N(C(=C(C1)C(=O)N(C)OC)C1=CC(=CC=C1)F)C=NC2 | C16H13ClFN3O2
